US06255276B1
164.6 g (0.37 mol) of (4-carboxybutyl)triphenylphosphonium bromide were suspended in 700 ml of tetrahydrofuran. 101 g (0.9 mol) of potassium t-butylate in 150 ml of tetrahydrofuran were added and then 68 g (0.36 mol) of 11-hydroxy-2-undecanone in 50 ml of tetrahydrofuran were added After usual working up there were obtained 98 g of crude 5Z-6-methylpentadec-5-enoic acid.

reactant | (4-carboxybutyl)triphenylphosphonium bromide | 0.37 mol, 164.6 g | [Br-].C(=O)(O)CCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 11-hydroxy-2-undecanone | 0.36 mol, 68 g | OCCCCCCCCCC(C)=O | C11H22O2
solvent | tetrahydrofuran | 700 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 5Z-6-methylpentadec-5-enoic acid | 98 g | C/C(=C/CCCC(=O)O)/CCCCCCCCC | C16H30O2
